US07960394B2
6-Chloro-2-[2-(2-fluoroethoxy)-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one
The intended compound was produced according to the method of Example 60 but starting from 6-chloro-2-[2-methoxy-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one and 2-fluoroethyl tosylate.

reactant | 6-chloro-2-[2-methoxy-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one | ClC1=CC2=C(N=C(N(C2=O)C)C2=C(C=C(C=C2)OCCCN2CCCC2)OC)C=N1 | C22H25ClN4O3
reactant | 2-fluoroethyl tosylate | S(=O)(=O)(OCCF)C1=CC=C(C)C=C1 | C9H11FO3S
product | 6-Chloro-2-[2-(2-fluoroethoxy)-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one | ClC1=CC2=C(N=C(N(C2=O)C)C2=C(C=C(C=C2)OCCCN2CCCC2)OCCF)C=N1 | C23H26ClFN4O3
